US08431569B2
Step 3. 8-Fluoro-1-[(3-fluoro-4-hydroxycyclohexyl)amino]-5H-pyrido[4,3-b]indole-4-carboxamide
To a stirred solution of 8-fluoro-1-[(3-fluoro-4-hydroxycyclohexyl)amino]-5H-pyrido[4,3-b]indole-4-carbonitrile (72 mg, 0.21 mmol) in DMSO were added hydrogen peroxide (30%, 0.18 mL, 2.10 mmol) and potassium carbonate (157 mg, 1.14 mmol). The reaction mixture was heated to 70° C. for 4 h, cooled to room temperature, filtered, and purified by prep-HPLC to afford the title compound. 1H NMR (500 MHz, CD3OD) δ 8.48 (s, 1H); 7.92 (dd, 1H); 7.57 (dd, 1H); 7.16 (dt, 1H); 4.35-4.52 (m, 2H); 3.71 (m, 1H); 1.46-2.55 (series of m, 6H). LRMS (APCI) calc'd for (C18H18F2N4O2) [M+H]+, 361.1. found 361.0.

reactant | 8-fluoro-1-[(3-fluoro-4-hydroxycyclohexyl)amino]-5H-pyrido[4,3-b]indole-4-carbonitrile | 0.21 mmol, 72 mg | FC1=CC=2C3=C(NC2C=C1)C(=CN=C3NC3CC(C(CC3)O)F)C#N | C18H16F2N4O
reactant | hydrogen peroxide | 2.10 mmol, 0.18 mL | OO | H2O2
reactant | potassium carbonate | 1.14 mmol, 157 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | CS(=O)C | C2H6OS
product | 8-Fluoro-1-[(3-fluoro-4-hydroxycyclohexyl)amino]-5H-pyrido[4,3-b]indole-4-carboxamide | FC1=CC=2C3=C(NC2C=C1)C(=CN=C3NC3CC(C(CC3)O)F)C(=O)N | C18H18F2N4O2
